US08133911B2
The acid was obtained following the same procedure described for (2R)-2-(4-{[4-(trifluoromethyl)-1,3-thiazol-2-yl]amino}phenyl)propanoic acid and starting from methyl (2R)-2-[4-(carbamothioylamino)phenyl]propanoate (2.0 g, 8.40 mmol) and 1-bromopinacolone (1.13 ml, 8.40 mmol). The following acid hydrolysis afforded the pure (2R)-2-{4-[(4-tert-butyl-1,3-thiazol-2-yl)amino]phenyl}propanoic acid (1.41 g, 4.62 mmol) as pale yellow oil (55%). 1H-NMR (CDCl3): δ 8.30 (bs, 1H, NH), 7.40 (d, 2H, J=7 Hz), 7.20 (d, 2H, J=7 Hz), 6.40 (s, 1H), 3.75 (q, 1H, J=7 Hz), 1.50 (d, 3H, J=7 Hz), 1.40, (s, 9H).

reactant | (2R)-2-(4-{[4-(trifluoromethyl)-1,3-thiazol-2-yl]amino}phenyl)propanoic acid | FC(C=1N=C(SC1)NC1=CC=C(C=C1)[C@H](C(=O)O)C)(F)F | C13H11F3N2O2S
reactant | methyl (2R)-2-[4-(carbamothioylamino)phenyl]propanoate | 8.40 mmol, 2.0 g | C(N)(=S)NC1=CC=C(C=C1)[C@H](C(=O)OC)C | C11H14N2O2S
reactant | 1-bromopinacolone | 8.40 mmol, 1.13 ml | BrCC(C(C)(C)C)=O | C6H11BrO
product | (2R)-2-{4-[(4-tert-butyl-1,3-thiazol-2-yl)amino]phenyl}propanoic acid | 4.62 mmol, 1.41 g, 55% | C(C)(C)(C)C=1N=C(SC1)NC1=CC=C(C=C1)[C@H](C(=O)O)C | C16H20N2O2S
